Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Breast cancer recurrence 
 
Major Surgical or Invasive Procedure:
Wide excision chest wall breast cancer recurrence 
 
History of Present Illness:
Ms ___ is a ___ woman, who was
originally diagnosed with carcinoma of the right breast on
___, which presented as an extremely locally
advanced, large exophytic necrotic breast mass complicated by
bleeding and repeated episodes of cellulitis and infection
required repeating admissions to the hospital and IV 
antibiotics.
Ms. ___ declined surgery, but ultimately agreed
with a radical mastectomy for palliative reasons.  

She was interested in being able to attend church and be able to
spend more time with her family and friends, which she has been
able to do.  Prior to the procedure, she spent her
time homebound requiring dressing changes every two to two and a
half hours and persistently had a very foul-smelling odor.

At the time of the right modified radical mastectomy on ___,
she was found to have an invasive ductal carcinoma, 19 x 16 x
11.5 cm with direct invasion into the dermis and epidermis of 
the
skin with ulceration, grade 3 and deep margins negative, less
than 0.1 cm from the deep margin for invasive carcinoma.  She 
had
nine negative axillary lymph nodes.  The tumor was estrogen and
progesterone and HER-2/neu negative.

She did well until early ___ when she was noted to have
recurrent nodules on her chest wall. She was seen by her medical
oncologist, Dr. ___.  On ___, CT of the torso
demonstrated the chest wall recurrence as well as progression of
nodal disease and lung metastases. She was initially started on
capciabine, but with marked and rapid progression of her
disease,she was started on oral CMF. She presents for a 
palliative resection of the chest wall recurrences. 
 
Past Medical History:
1. Stage IV metastatic, triple negative, poorly differentiated 
invasive breast carcinoma 
2. Schizophrenia (patient denies this diagnosis, treated by Dr. 
___ at ___ in ___
3. Hypertension
4. Stage IIA colonic adenocarcinoma (underwent right colectimy 
___, CEA normal at the time of surgery)
5. History of high-grade SIL; patient declined follow-up
6. Polypoid endometrial lesion ___ patient declined 
follow-up
7. Hernia repair
8. hemorrhoids s/p resection 
 
Social History:
___
Family History:
No known history of breast or ovarian CA.
 
Physical Exam:
Gen: NAD alert and oriented, bilateral hand tremor
HEENT: non traumatic, non iceteric
CV: RRR, no m,r,g
Resp: CTABL
Abd: Soft non tender non distended
Ext: bilateral tremors in hand
Breast: incisions c/d/i. right JP drain with sero sang 
 
Pertinent Results:
___ 11:25AM BLOOD WBC-2.7* RBC-2.66* Hgb-8.7* Hct-26.3* 
MCV-99* MCH-32.6* MCHC-32.9 RDW-17.4* Plt ___
___ 03:00PM BLOOD WBC-2.7*#####   RBC-3.11* Hgb-10.2* Hct-30.9* 
MCV-100* MCH-32.8* MCHC-33.0 RDW-18.2* Plt ___
___ 11:25AM BLOOD Glucose-136* UreaN-11 Creat-0.8 Na-130* 
K-4.1 Cl-94* HCO3-27 AnGap-13
___ 11:25AM BLOOD Calcium-8.4 Phos-2.5* Mg-1.9
 
Brief Hospital Course:
Mrs. ___ presented to ___ holding at ___ on ___ 
for a resection of her right chest breast cancer recurrences. 
She tolerated the procedure well without complications (Please 
see operative note for further details). After a brief and 
uneventful stay in the PACU, the patient was transferred to the 
floor for further post-operative management. 

Neuro: The patient's pain was initially controlled with standing 
tylenol and breakthrough IV morphine. On POD#####  1 she was 
transitioned to PO pain medications completely. She was 
restarted on her home psychiatric medications 
CV: no acute issues during this hospitalization. CBC was checked 
pre-operatively. She was restarted on home amlodipine on POD#####  1. 
Pulm:No acute issues this hopsitalization. 
GI:She was started on a regular diet on POD#####  1 which was 
tolerated. Post-operative nausea was not an issue. 
GU: The patient voided on POD#####  0 and otherwise had no issues. She 
was taking adequate PO liquids on POD#####  1 and her IV fluids were 
stopped. 
ID: She was afebrile throughout the visit. Her white blood cell 
count was borderline low but remained unchanged throughout the 
hospitalization. 
Heme: She received venodyne prophylaxis for DVT. 
Social: The patient was seen by palliative care while in house. 
She was also seen by a home hospice provider. She was discharged 
with follow up with both although she had not made a final 
decision on initiating hospice care. 

On ___, the patient was discharged to home. At discharge, 
she was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in the clinic in 
___ weeks. This information was communicated to the patient 
directly prior to discharge. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Amlodipine 5 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea 
4. Cyclophosphamide 25 mg PO DAILY 
5. RISperidone 3 mg PO HS 
6. Trihexyphenidyl 2 mg PO HS 
7. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea 
4. Docusate Sodium 100 mg PO BID 
5. RISperidone 3 mg PO HS 
6. Trihexyphenidyl 2 mg PO HS 
7. Acetaminophen 1000 mg PO Q6H 
8. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN breakthrough 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#####  *20 Tablet Refills:*0
9. Cyclophosphamide 25 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Breast cancer recurrence 

 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Personal Care: 
1. You are being discharged home with ___ services. Please keep 
your surgical incision and drain site covered with a clean dry 
gauze and occlusive dressing that should be changed daily.
2. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day. 
3. A written record of the daily output from your drain should 
be brought to every follow-up appointment. Your drain will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount. 
4. No showering while drains are in place. No baths until 
instructed to do so by your surgeon.
5. You may wear a soft, non-restrictive camisole or surgical bra 
(No underwire bras). 

Activity: 
1. You may resume your regular diet. 
2. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity until instructed by your surgeon. 
Medications: 
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered. 
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. 
3. Take prescription pain medications for pain not relieved by 
tylenol. 
4.Take Colace, 100 mg by mouth 2 times per day, while taking the 
prescription pain medication. You may use a different 
over-the-counter stool softener if you wish. 
5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber. 

Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
2. A large amount of bleeding from the incision(s) or drain(s). 
3. Fever greater than 101.5 oF 
4. Severe pain NOT relieved by your medication. 

Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications. 
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern you. 

DRAIN DISCHARGE INSTRUCTIONS 
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.

Thank you for allowing us to participate in your care.
 

 
Followup Instructions:
___